US05708008
5-ethoxycarbonyl-3-(1-methylpiperidin-4-yl)-1H-indole
To a solution of 3.24 gm (11.3 mMol) 5-ethoxycarbonyl-3-(1-methyl-1,2,5,6-tetrahydropyridin-4-yl)-1H-indole in 100 mL ethanol was added 0.8 gm 5% palladium an carbon and the reaction mixture hydrogenated at room temperature for 18 hours at an initial hydrogen pressure of 60 p.s.i. The reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residual oil, which crystallized on standing at room temperature, was recrystallized from 30 mL acetonitrile to provide 1.79 gm (55%) of the desired compound as colorless crystals.

reactant | 5-ethoxycarbonyl-3-(1-methyl-1,2,5,6-tetrahydropyridin-4-yl)-1H-indole | 11.3 mMol, 3.24 gm | C(C)OC(=O)C=1C=C2C(=CNC2=CC1)C1=CCN(CC1)C | C17H20N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium | 0.8 gm | [Pd] | Pd
product | 5-ethoxycarbonyl-3-(1-methylpiperidin-4-yl)-1H-indole | 1.79 gm, 55% | C(C)OC(=O)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C17H22N2O2
